US04478842
A solution of 3-methyl-2-(3-pyridyl)indole (2.09 g) in 12 ml of DMF is added to a suspension of 0.528 g of 50% sodium hydride (dispersion in mineral oil) in 6 ml of DMF at 0°. The mixture is stirred at 0° for 0.5 hour and is treated with a solution of 1.78 g of 5-bromovaleronitrile in 4 ml of DMF. This mixture is stirred at room temperature overnight and is poured into 125 ml of water. This is extracted with 2×50 ml of ether, the extract is washed with 3×20 ml of water and dried over MgSO4 to give 1-(4-cyanobutyl)-3-methyl-2-(3-pyridyl)-indole as an oil.

reactant | 3-methyl-2-(3-pyridyl)indole | 2.09 g | CC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C14H12N2
reactant | sodium hydride | 0.528 g | [H-].[Na+]
reactant | 5-bromovaleronitrile | 1.78 g | BrCCCCC#N | C5H8BrN
reactant | water | 125 ml | O | H2O
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 1-(4-cyanobutyl)-3-methyl-2-(3-pyridyl)-indole | C(#N)CCCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C19H19N3
